US08703946B2
N-iodosuccinimide (70 mg, 0.31 mmol) was added to a solution of 5-(4-fluorobenzoyl)-4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine (0.1 g, 0.28 mmol) in chloroform (1 mL). The mixture was stirred at 65° C. for 1 hour. Then the solvent was evaporated in vacuo and the crude product was purified by flash column chromatography (silica; AcOEt in heptane 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield (4-fluoro-phenyl)-(3-iodo-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone (0.13 g, 96% yield) as a white solid.

reactant | N-iodosuccinimide | 0.31 mmol, 70 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 5-(4-fluorobenzoyl)-4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine | 0.28 mmol, 0.1 g | FC1=CC=C(C(=O)N2CC=3N(CC2)N=C(C3)COC3=CC=CC=C3)C=C1 | C20H18FN3O2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-fluoro-phenyl)-(3-iodo-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone | 0.13 g, 96% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2I)COC2=CC=CC=C2 | C20H17FIN3O2
